US03943124
17β-Methoxycarbonyl-5α-androstan-2-en-11-one
A solution of 17β-methoxycarbonyl-3β-toluene-p-sulphonyloxy-5α-androstan-11-one (1.01g.) in hot collidine (5 ml.) was refluxed for 30 minutes. The solution was cooled and poured into diluted hydrochloric acid and ice, and stirred. The product was filtered, washed with water, dried and purified by filtering it through a column of alumina, eluting with ether. The eluate was evaporated to a residue and crystallisation from ether and hexane gave title compound (340 mg.) as colourless rods; m.p. 169°-175°; [α]D + 139°.

reactant | 17β-methoxycarbonyl-3β-toluene-p-sulphonyloxy-5α-androstan-11-one | 1.01g | COC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@H](CC[C@]3(C)[C@H]1C(C2)=O)OS(=O)(=O)C2=CC=C(C=C2)C | C28H38O6S
reactant | hydrochloric acid | Cl | ClH
solvent | collidine | 5 ml | N1=C(C=C(C=C1C)C)C | C8H11N
product | 17β-Methoxycarbonyl-5α-androstan-2-en-11-one | 340 mg | COC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC=CC[C@]3(C)[C@H]1C(C2)=O | C21H30O3
